US06677368B2
Hydrazine hydrate (0.4 mL, 12.7 mmol) was added to a solution of 2-fluoro-5-(1H-indol-4-yl)-benzonitrile (1.2 g, 5.08 mmol) in n-butanol (25 mL). The mixture was heated to reflux under nitrogen for 3 days. The reaction was cooled to room temperature and the solvent was removed. The residue was purified on a silica gel column eluting with DCM:MeOH (95:5) to give 1.05 g (83%) of 5-(1H-indol-4-yl)-1H-indazol-3-ylamine as a white foam.

reactant | Hydrazine hydrate | 12.7 mmol, 0.4 mL | O.NN
reactant | 2-fluoro-5-(1H-indol-4-yl)-benzonitrile | 5.08 mmol, 1.2 g | FC1=C(C#N)C=C(C=C1)C1=C2C=CNC2=CC=C1 | C15H9FN2
solvent | n-butanol | 25 mL | C(CCC)O | C4H10O
product | 5-(1H-indol-4-yl)-1H-indazol-3-ylamine | 1.05 g, 83% | N1C=CC2=C(C=CC=C12)C=1C=C2C(=NNC2=CC1)N | C15H12N4
